US05856309
To a solution of the crude 4-benzoyloxy-pyrrolidine-1,3-dicarboxylic acid 1-tert.-butylester 3-ethylester from the benzoylation described above in 75 ml dry toluene was added 4.11 g (27 mmol) DBU. The dark, heterogeneous mixture was stirred at room temperature for 16 h. After this time no starting material was detectable by TLC and GC analysis. The mixture was filtered through a short column of silica (elution with petrolether/ethyl acetate 1:1) and evaporated. Bulb-to-bulb distillation of the residual slightly yellow oil gave 4.16 g (86%) 2,5-dihydro-pyrrole-1,3-dicarboxylic acid 1-tert.-butylester 3-ethyl ester as a colorless oil b.p. 110° C./0.2 mbar, which slowly solidified to a waxy mass on standing in the freezer.

reactant | 4-benzoyloxy-pyrrolidine-1,3-dicarboxylic acid 1-tert.-butylester 3-ethylester | C(C)OC(=O)C1CN(CC1OC(C1=CC=CC=C1)=O)C(=O)OC(C)(C)C | C19H25NO6
reactant | DBU | 27 mmol, 4.11 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 2,5-dihydro-pyrrole-1,3-dicarboxylic acid 1-tert.-butylester 3-ethyl ester | 4.16 g, 86% | C(C)OC(=O)C=1CN(CC1)C(=O)OC(C)(C)C | C12H19NO4
